US04228298
4-Difluoromethyl-4-hydroxy-1-octyne
To a stirred suspension of 3.6 g. of magnesium and 30 mg. of mercuric chloride in 0.33 ml. of ether is added 1.5 ml. of propargyl bromide. The mixture is stirred vigorously for several minutes to initiate reaction, then a solution of 15.5 g. of 1,1-difluoro-2-hexanone and 12.1 ml. of propargyl bromide in 33 ml. of ether is added slowly (dropwise) over a 1.5 hour period, so that the mixture remains gently refluxing (25°-30° C.). After addition, the mixture is stirred at room temperature for 30 minutes, then cooled in an ice bath to 0°-5° C. and quenched by adding 35 ml. of saturated ammonium chloride solution dropwise (exothermic) and stirred for 30 minutes. The mixture is filtered through Celite and washed with ether. The filtrate is concentrated in vacuo giving a yellow oil. This oil is vacuum distilled at 71° C., 12 mm giving the product as 10.54 g. of colorless oil which becomes pale yellow on standing at room temperature.

reactant | magnesium | [Mg] | Mg
reactant | propargyl bromide | C(C#C)Br | C3H3Br
reactant | 1,1-difluoro-2-hexanone | FC(C(CCCC)=O)F | C6H10F2O
solvent | ether | CCOCC | C4H10O
product | 4-Difluoromethyl-4-hydroxy-1-octyne | FC(C(CC#C)(CCCC)O)F | C9H14F2O
